US04039551
A stirred suspension of 8-chloro-6-phenyl-1-[(phthalimidooxy)methyl]-4H-s-triazolo[4,3-a][1,4]benzodiazepine (9.4 g., 0.02 mole) in absolute ethanol (100 ml.) was treated with hydrazine hydrate (1.45 ml.) and warmed, under nitrogen, at a bath temperature at 70° C. for 3 hours. The mixture was cooled in an ice bath and filtered. The solid was washed with ethanol and methylene chloride. The combined filtrate was concentrated in vacuo; the residue was mixed with water and extracted with methylene chloride. The extract was washed with water, dried over anhydrous sodium sulfate and concentrated. The residue was dissolved in chloroform-ethyl-acetate and filtered through a small pad of silica gel. The filtrate was crystallized from methanol-ethylacetate to give 1-[(aminooxy)methyl]-8-chloro-6-phenyl-4H-s-triazolo[4,3-a][1,4]benzodiazepine in three crops: 1.95 g. of melting point 190°-191.5° C.; 0.89 g. of melting point 183°-186° C.; 0.285 g. of melting point 183°-186° C. The analytical sample had a melting point 191°-192° C.

reactant | 8-chloro-6-phenyl-1-[(phthalimidooxy)methyl]-4H-s-triazolo[4,3-a][1,4]benzodiazepine | 0.02 mole, 9.4 g | ClC=1C=CC2=C(C(=NCC=3N2C(=NN3)CON3C(C=2C(C3=O)=CC=CC2)=O)C2=CC=CC=C2)C1 | C25H16ClN5O3
reactant | hydrazine hydrate | 1.45 ml | O.NN
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 1-[(aminooxy)methyl]-8-chloro-6-phenyl-4H-s-triazolo[4,3-a][1,4]benzodiazepine | NOCC1=NN=C2N1C1=C(C(=NC2)C2=CC=CC=C2)C=C(C=C1)Cl | C17H14ClN5O
